US06949542B2
(RS)-[4-Chloro-5-methyl-2-(3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionylamino)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester (Example J22) (257 mg, 1.0 mmol) and (RS)-3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester (Example K64) (426 mg, 1.0 mmol) according to the general procedure M. Obtained as a light yellow foam (460 mg, 76%).

reactant | (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 257 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)N)=O | C12H17ClN2O2
reactant | (RS)-3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 426 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)COC1OCCCC1)C)=O | C25H31NO5
product | (RS)-[4-Chloro-5-methyl-2-(3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionylamino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)COC1OCCCC1)C)=O)=O | C33H38ClN3O6
